US09315521B2
To a refluxing solution of thiourea (2.6 g, 34.3 mmol) in absolute ethanol (30 mL) was slowly added at reflux ethyl 2-bromo-3-oxopentanoate (7.3 g, 32.7 mmol). The solution was stirred at reflux for 1.5 hours. After cooling to room temperature, the solution was poured in ice/water (150 mL). The mixture was neutralized with concentrated NH4OH. The solid material was recovered by filtration, washed with water (2×50 mL) and hexanes (3×50 mL), and dried in vacuo, affording ethyl 2-amino-4-ethyl-1,3-thiazole-5-carboxylate (6.8 g, 94% yield). The product was used without further purification.

reactant | thiourea | 34.3 mmol, 2.6 g | NC(=S)N | CH4N2S
reactant | ethyl 2-bromo-3-oxopentanoate | 32.7 mmol, 7.3 g | BrC(C(=O)OCC)C(CC)=O | C7H11BrO3
reactant | NH4OH | [NH4+].[OH-]
solvent | ethanol | 30 mL | C(C)O | C2H6O
product | ethyl 2-amino-4-ethyl-1,3-thiazole-5-carboxylate | 6.8 g, 94% yield | NC=1SC(=C(N1)CC)C(=O)OCC | C8H12N2O2S
